US04146646
A mixture of 1,1,1-trichloro-2-methylamino-2-formamidoethane (6.85g) and acetic anhydride (17ml) was heated on a water bath for 11/2 hours. The reaction mixture was concentrated to give a oily residue which was triturated with water. The solid formed was collected, washed with water and dried (3.6g). Recrystallisation from benzene gave pure 1,1,1-trichloro-2-formamido-2-(N-methylacetamido)ethane (3.2g, m.p. 126-8)

reactant | 1,1,1-trichloro-2-methylamino-2-formamidoethane | 6.85g | ClC(C(NC=O)NC)(Cl)Cl | C4H7Cl3N2O
reactant | acetic anhydride | 17ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,1,1-trichloro-2-formamido-2-(N-methylacetamido)ethane | 3.2g | ClC(C(N(C(C)=O)C)NC=O)(Cl)Cl | C6H9Cl3N2O2
